US05004747
(2RS,4R,6S)-(E)-6-(2-(2-cyclohexyl-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-2,4-dihydroxy-3,4,5,6-tetrahydro-2H-pyran;
(4R,6S)-(E)-6-(2-(2-cyclohexylmethyl-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one, m.p.141°-142° C. [α]D =+7.8° (CH2Cl2 at 29° C.) Found: C,73.9; H,8.0; N,3.16% Required: C,73.7; H,7.9; N,3.31%. [NMR in CDCl3, 1.44 (6H,d,J=8 Hz), 0.98-2.12 (13H,m), 2.26 (1H,m), 2.83 (2H,m), 3.50 (1H,sept,J=8 Hz), 3.96 (2H,m), 4.53 (1H,m), 5.49 (1H,m), 5.86 (1H,dd,J=16 Hz and J=6 Hz), 6.70 (1H,dd,J=16 Hz and J=1.5 Hz), 7.48 (1H,m), 7.64 (1H,m), 7.96 (1H,d,J=8 Hz), 8.48 (1H,m)] ;

reactant | (4R,6S)-(E)-6-(2-(2-cyclohexylmethyl-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-4-hydroxy-3,4,5,6-tetrahydro-2H-pyran-2-one | C1(CCCCC1)CN1C(C2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@H](CC(O1)=O)O)C(C)C)=O | C26H33NO4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2RS,4R,6S)-(E)-6-(2-(2-cyclohexyl-4-isopropyl-1-oxo-1,2-dihydroisoquinolin-3-yl)ethen-1-yl)-2,4-dihydroxy-3,4,5,6-tetrahydro-2H-pyran | C1(CCCCC1)N1C(C2=CC=CC=C2C(=C1/C=C/[C@@H]1C[C@H](CC(O1)O)O)C(C)C)=O | C25H33NO4
